US06518264B2
The operation is carried out under the conditions described in Example 124 starting with 150 mg of activated 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid on TFP resin (165 μM) and 0.0333 cm3 of 1-(aminoethyl)pyrrolidine. 39 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-(2-pyrrolidin-1-ylethyl)benzamide are thus obtained in the form of a pale yelow powder [1H NMR spectrum (300 MHz, (CD3)2SO-d6 with addition of a few drops of CD3COOD-d4, δ in ppm): from 1.80 to 2.00 (mt, 4H), 2.97 (s, 3H), 3.20 (mt, 6H), 3.57 (t, J=6.5 Hz, 2H), 3.80 (mt, 2H), 4.23 (mt, 2H), 4.77 (s, 1H), 7.35 (d, J=8.5 Hz, 4H), 7.45 (d, J=8.5 Hz, 4H), from 7.50 to 7.65 (mt, 2H), 7.87 (broad s, 1H), 7.90 (broad d, J=7.5 Hz, 1H)].

reactant | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid | 150 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C25H21Cl2NO4S
reactant | 1-(aminoethyl)pyrrolidine | 0.0333 cm3 | NCCN1CCCC1 | C6H14N2
product | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-(2-pyrrolidin-1-ylethyl)benzamide | 39 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)NCCN2CCCC2)C=CC1)C1=CC=C(C=C1)Cl | C31H33Cl2N3O3S
